US07923462B2
4-Benzyloxy-2-iodo-5-methoxybenzaldehyde
To a mixture of 4-benzyloxy-3-methoxybenzaldehyde (10 g), silver trifluoroacetate (11.4 g) and methylene chloride (105 mL) was added iodine (13.1 g) at room temperature. After stirring for 2 hours, the mixture was passed through a layer of Celite (registered mark). The filtrate was washed with an aqueous solution of sodium hydrogen sulfite and brine successively, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was triturated with methanol:water=4:1 to give the title compound (13.2 g).

reactant | 4-benzyloxy-3-methoxybenzaldehyde | 10 g | C(C1=CC=CC=C1)OC1=C(C=C(C=O)C=C1)OC | C15H14O3
reactant | iodine | 13.1 g | II | I2
catalyst | silver trifluoroacetate | 11.4 g | FC(C(=O)[O-])(F)F.[Ag+]
solvent | methylene chloride | 105 mL | C(Cl)Cl | CH2Cl2
product | 4-Benzyloxy-2-iodo-5-methoxybenzaldehyde | 13.2 g | C(C1=CC=CC=C1)OC1=CC(=C(C=O)C=C1OC)I | C15H13IO3
